US09062092B2
A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (160 mg, 0.3 mmol), (R)-2-difluoromethoxymethyl-2-methyl-but-3-enoic acid (54 mg, 0.3 mmol), tri(o-tolyl)phosphine (18 mg, 0.06 mmol) and triethylamine (91 mg, 0.125 mL, 0.9 mmol) in 1,4-dioxane (6 mL) was stirred at 50° C. under nitrogen. Tris(dibenzylideneacetone)dipalladium(0) (27 mg, 0.03 mmol) was added and the reaction mixture was heated at reflux for 40 minutes. The reaction mixture was cooled to room temperature and the mixture was filtered through a hydrophobic frit and the filtrate was evaporated to afford crude (E)-(R)-2-difluoromethoxymethyl-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2-methyl-but-3-enoic acid (0.3 mmol) which was used in the next step. LCMS (m/z) 634.2 [M+H], Tr=2.04 min.

reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.3 mmol, 160 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O | C24H32BrN5O4
reactant | (R)-2-difluoromethoxymethyl-2-methyl-but-3-enoic acid | 0.3 mmol, 54 mg | FC(OC[C@](C(=O)O)(C=C)C)F | C7H10F2O3
reactant | tri(o-tolyl)phosphine | 0.06 mmol, 18 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.9 mmol, 0.125 mL, 91 mg | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 27 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-(R)-2-difluoromethoxymethyl-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2-methyl-but-3-enoic acid | 0.3 mmol | FC(OC[C@](C(=O)O)(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)C)F | C31H41F2N5O7
